US04284813
A mixture of 1.1 g. of p-n-butyl benzoic acid, 2.5 g. of thionylchloride, 5 ml. of toluene and a small amount of zeolite was refluxed for about 4 hours to react them. After the reaction, excess of thionylchloride, dissolved hydrogen-chloride gas, sulfur dioxide gas, and toluene were vaporized to remove them by a rotary evaporator. A crude p-n-butyl benzoylchloride was obtained as a residue. On the other hand, 1.1 g. of 2,3-dichloroaniline was dissolved in 10 ml. of acetone and 1.3 g. of potassium carbonate was gradually added with stirring to suspend it.

reactant | p-n-butyl benzoic acid | C(CCC)C1=CC=C(C(=O)O)C=C1 | C11H14O2
reactant | thionylchloride | S(=O)(Cl)Cl | Cl2OS
reactant | hydrogen-chloride | Cl | ClH
reactant | sulfur dioxide | S(=O)=O | O2S
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | p-n-butyl benzoylchloride | C(CCC)C1=CC=C(C(=O)Cl)C=C1 | C11H13ClO
